US07777047B2
5-(2-methoxyethoxy)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
A mixture of 5-(2-methoxyethoxy)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (1.05 g), 1H-1,2,3-benzotriazol-1-ol-ammonia complex (590 mg), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (750 mg) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 15 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with aqueous citric acid solution, saturated aqueous sodium hydrogencarbonate and saturated brine, dried (MgSO4), and concentrated to give the title compound (1.00 g, yield 94%) as colorless crystals. The crystals were recrystallized from acetone-hexane to give colorless prism crystals. melting point 214-215° C.

reactant | 5-(2-methoxyethoxy)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 1.05 g | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C=1SC=CC1)C)C(=O)O | C17H18N2O6S2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 750 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 5-(2-methoxyethoxy)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 1.00 g, yield 94% | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C=1SC=CC1)C)C(=O)N | C17H19N3O5S2
